US07049438B2
Thus, 5-fluoro-3,4-dihydroquinazolin-4-one (2 g) was reacted with triphenylphosphine and carbon tetrachloride to give 5-fluoro-4-chloroquinazoline (1.34 g); NMR Spectrum: (CDCl3) 7.4–7.5 (m, 1H), 7.9–8.0 (m, 2H), 9.1 (s, 1H); and

reactant | 5-fluoro-3,4-dihydroquinazolin-4-one | 2 g | FC1=C2C(NC=NC2=CC=C1)=O | C8H5FN2O
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-fluoro-4-chloroquinazoline | 1.34 g | FC1=C2C(=NC=NC2=CC=C1)Cl | C8H4ClFN2
